US08790619B2
To a solution of benzyloxyacetic acid (4.6 g, 28.0 mmol, 4.0 mL) in DCM (52 mL) was added oxalyl chloride (7.7 g, 61 mmol, 5.3 mL) and a drop of DMF. The reaction mixture was stirred at room temperature for 4 h. Excess of oxalyl chloride was removed in vacuo to give benzyloxy-acetyl chloride. The crude acyl chloride was diluted into DCM (100 mL) and triethylamine (5.3 mL, 41.6 mmol, 4.2 g) was added followed by 4-fluoroaniline (3.5 g, 32 mmol, 3.0 mL). The reaction mixture was stirred at RT overnight. The reaction was then quenched with 1 M aqueous HCl (100 mL), dried and concentrated in vacuo to give 7.1 g (95%) of 2-benzyloxy-N-(4-fluoro-phenyl)-acetamide (33) as a yellow oil which was used in the next step without purification. The structure was confirmed by 13C NMR (75 MHz, CDCl3) δC 69.2, 73.5, 115.4 (d, JCF=22 Hz), 121.4 (d, JCF=7 Hz), 127.9, 128.2, 128.5, 132.5 (d, JCF=3 Hz), 136.3, 157.6, 160.8, and 167.5.

reactant | benzyloxyacetic acid | 28.0 mmol, 4.0 mL, 4.6 g | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | oxalyl chloride | 61 mmol, 5.3 mL, 7.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 52 mL | C(Cl)Cl | CH2Cl2
product | benzyloxy-acetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
